* source 008_N-CHANNELDRIVE
V_V1         +5V 0 +5Vdc
X_Q1         N00351 N05042 +12V awb2n4125 PARAMS:                              
+               
V_V2         +12V 0 +10Vdc
R_R2         0 N00351  5k TC=0,0 
R_R3         N00436 +12V  3 TC=0,0 
R_R4         N00545 N00351  1k TC=0,0 
R_R6         +5V 0  5k TC=0,0 
M_M1         N00436 N00545 0 0 M2N6755
R_R13         N02912 N02904  1k TC=0,0 
R_R12         N06374 N02824  20k TC=0,0 
R_R14         N02824 0  100k TC=0,0 
R_R11         N02812 +12V  3 TC=0,0 
R_R15         0 N02904  5k TC=0,0 
M_M3         N02812 N02912 0 0 M2N6755
X_M5         N02904 N02824 +12V BSO613SPV/L1/INF
R_R16         N05042 +12V  10k TC=0,0 
R_R18         +5V +5V  500 TC=0,0 
R_R10         +12V N02824  7.5k TC=0,0 
R_R19         N06374 0  7k TC=0,0 
R_R20         +5V 0  5k TC=0,0 
R_R21         +5V 0  500 TC=0,0 
